US05929074
N-Benzyloxycarbonyl-3-[{4-(4-fluorobenzyl)-piperazin-1-yl}-β-hydroxypropyloxy]-4-methoxybenzylamine
A mixture comprising 2.4 g of N-benzyloxycarbonyl-3-(2,3-epoxypropyloxy)-4-methoxybenzylamine, 30 ml of ethanol and 1.4 g of 4-fluorobenzyl-piperazine, was refluxed under heating with stirring overnight. The mixture was cooled to room temperature, and then the reaction solution was concentrated under reduced pressure and extracted with chloroform. The organic layer was washed with an aqueous potassium carbonate solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:methanol=19:1) to obtain 2.6 g of the above-identified compound.

reactant | N-benzyloxycarbonyl-3-(2,3-epoxypropyloxy)-4-methoxybenzylamine | 2.4 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC(=C(C=C1)OC)OCC1CO1 | C19H21NO5
reactant | 4-fluorobenzyl-piperazine | 1.4 g | FC1=CC=C(CN2CCNCC2)C=C1 | C11H15FN2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-Benzyloxycarbonyl-3-[{4-(4-fluorobenzyl)-piperazin-1-yl}-β-hydroxypropyloxy]-4-methoxybenzylamine | 2.6 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC(=C(C=C1)OC)OCC(CN1CCN(CC1)CC1=CC=C(C=C1)F)O | C30H36FN3O5
